US05854277
To a mixture of diethyl phosphite (2.8 mL, 0.0217 mol) and triethylamine (9. mL, 0.065 mol, 3.0 equiv.) in dry diethyl ether (250 mL) at 0° C. was slowly added freshly distilled trimethylsilyl chloride (3.3 mL, 0.0260 mol, 1.2 equiv.) via syringe. The resulting slurry was allowed to slowly warm to room temperature, and was then warmed to 45° C. for 14 h. Volatiles were removed by distillation using a 55° C. oil bath. The resulting mixture was diluted with pentane (150 mL), filtered to remove triethylammonium salts, and concentrated at atmospheric pressure using a 55° C. oil bath. Distillation of the resulting oil gave diethyl trimethylsilyl phosphite as a colorless oil (3.64 g, 80%).

reactant | diethyl phosphite | 0.0217 mol, 2.8 mL | P(OCC)(OCC)[O-]
reactant | triethylamine | 0.065 mol, 3.0 equiv. | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 0.0260 mol, 3.3 mL, 1.2 equiv. | C[Si](C)(C)Cl | C3H9ClSi
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | diethyl trimethylsilyl phosphite | 3.64 g, 80% | P(OCC)(OCC)O[Si](C)(C)C | C7H19O3PSi
